US05719141
b) 1-(Tert-butoxycarbonyl)indolin-3(R,S)-carboxylic acid (N-methyl)amide
0.35 ml of 1-chloro-N,N,2-trimethylpropenylamine is added to a solution of 0.59 g of 1-(tert-butoxycarbonyl)indoline-3(R,S)carboxylic acid in methylene chloride at 0° C. After 30 min, 0.93 ml of triethylamine, 0.23 g of methylamine hydrochloride and 4-DMAP, as a catalyst, are added and the mixture is stirred at room temperature for 3 h. The reaction mixture is then chromatographed directly over 80 g of silica gel (mobile phase J). This gives the title compound: Rf (P)=0.65.

reactant | 1-chloro-N,N,2-trimethylpropenylamine | 0.35 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 1-(tert-butoxycarbonyl)indoline-3(R,S)carboxylic acid | 0.59 g | C(C)(C)(C)OC(=O)N1CC(C2=CC=CC=C12)C(=O)O | C14H17NO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 0.93 ml | C(C)N(CC)CC | C6H15N
catalyst | methylamine hydrochloride | 0.23 g | Cl.CN
catalyst | 4-DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(Tert-butoxycarbonyl)indolin-3(R,S)-carboxylic acid (N-methyl)amide | CNC(=O)C1CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H20N2O3
